US08877774B2
Step 1. (3-(8-(1,3-Dioxolan-2-yl)octyloxy)phenyl)(phenyl)methanone
2-(8-Bromooctyl)-1,3-dioxolane (3.89 g, 14.69 mmol) was added to a mixture of 3-hydroxybenzophenone (3 g, 15.13 mmol) and potassium carbonate (4.17 g, 30.21 mmol) in dimethyl formamide (50 mL). The reaction mixture was stirred at 80° C. for 16 hours. The reaction mixture was diluted with water and extracted with ethyl acetate (×3). The combined organic extracts were washed with saturated aqueous sodium bicarbonate solution, saturated aqueous ammonium chloride solution and dried (sodium sulfate), filtered, and concentrated under reduced pressure. The crude material was purified by silica gel column chromatography eluting with 0-100% ethyl acetate in iso-hexane to afford the title compound (4.73 g, 84%).

reactant | 2-(8-Bromooctyl)-1,3-dioxolane | 14.69 mmol, 3.89 g | BrCCCCCCCCC1OCCO1 | C11H21BrO2
reactant | 3-hydroxybenzophenone | 15.13 mmol, 3 g | OC=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C13H10O2
reactant | potassium carbonate | 30.21 mmol, 4.17 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (3-(8-(1,3-Dioxolan-2-yl)octyloxy)phenyl)(phenyl)methanone | 4.73 g, 84% | O1C(OCC1)CCCCCCCCOC=1C=C(C=CC1)C(=O)C1=CC=CC=C1 | C24H30O4
